US07601844B2
Crude ethyl 3-methyl-2-(5-phenyl-1,3,4-oxadiazol-2-ylamino)butanoate (assumed 5 mmol) was dissolved in a mixture of THF (10 ml) and MeOH (2 ml) and then treated dropwise (exothermic) with aqueous 1 N NaOH (6 mL) solution. The reaction was stirred for 1 h, diluted with H2O (50 mL) and then extracted with Et2O (1×50 mL). The aqueous layer was acidified to pH 3 with aqueous 1N HCl solution and then extracted with EtOAc (3×35 mL). The EtOAc extracts were combined, washed with sat. aqueous NaCl solution, dried (MgSO4) and the solvent was removed in vacuo to give 3-methyl-2-(5-phenyl-1,3,4-oxadiazol-2-ylamino)butanoic acid in 50-75% yield over 3 steps in purity >90% as judged by LCMS. MS found: 262 (M+H).

reactant | ethyl 3-methyl-2-(5-phenyl-1,3,4-oxadiazol-2-ylamino)butanoate | 5 mmol | CC(C(C(=O)OCC)NC=1OC(=NN1)C1=CC=CC=C1)C | C15H19N3O3
reactant | NaOH | 1 N, 6 mL | [OH-].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | MeOH | 2 ml | CO | CH4O
solvent | H2O | 50 mL | O | H2O
product | 3-methyl-2-(5-phenyl-1,3,4-oxadiazol-2-ylamino)butanoic acid | 50-75% yield | CC(C(C(=O)O)NC=1OC(=NN1)C1=CC=CC=C1)C | C13H15N3O3
